US07304059B2
Dissolve 3-chloro-2-cyanopyridine (10.0 g, 0.072 mol, Chem. Pharm. Bull. (1985) 33:565–571) in anhydrous THF (200 mL) under N2 atmosphere and cool in an ice bath. Add drop wise 3.0 M MeMgI in diethyl ether (48 ml, 0.14 mol) to the reaction mixture and stir in an ice bath for 2 hours. Pour the reaction mixture over ice cold water, acidify the mixture with 2.0 N aq. HCl to pH 2 to 3. Extract the reaction mixture with EtOAc (3×100 mL) and dry over anhydrous MgSO4. Filter, concentrate under vacuum and then filter through a pad of silica gel using 20% ethyl acetate/hexane as eluent. Removal of solvent under reduced pressure gives pure 2-acetyl-3-chloropyridine as oil.

reactant | 3-chloro-2-cyanopyridine | 0.072 mol, 10.0 g | ClC=1C(=NC=CC1)C#N | C6H3ClN2
reactant | MeMgI | 3.0 M | C[Mg]I
reactant | diethyl ether | 0.14 mol, 48 ml | C(C)OCC | C4H10O
reactant | HCl | 2.0 N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-acetyl-3-chloropyridine | C(C)(=O)C1=NC=CC=C1Cl | C7H6ClNO
